US07718652B2
3-(3-chloropropyl)-1-phenyl-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide (0.030 g, 0.089 mmol) was dissolved in an 8 M solution of methylamine in tetrahydrofuran (5 mL), treated with KI (0.030 g, 0.18 mmol), and stirred in a capped vial at 50° C. for 20 hours. The reaction mixture was evaporated and the residue purified by flash chromatography (SiO2, 0-5% 7 M NH3-methanol/dichloromethane). The purified free-base was dissolved in ethyl ether (10 mL) and treated with hydrogen chloride (1.0 mL of a 2 M solution in ethyl ether), resulting in a white precipitate that was isolated by decantation and dried under vacuum to afford 3-(2,2-dioxido-1-phenyl-1,4-dihydro-3H-2,1,3-benzothiadiazin-3-yl)-N-methylpropan-1-amine hydrochloride (0.030 g, 92%) as a white solid:

reactant | 3-(3-chloropropyl)-1-phenyl-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide | 0.089 mmol, 0.030 g | ClCCCN1S(N(C2=C(C1)C=CC=C2)C2=CC=CC=C2)(=O)=O | C16H17ClN2O2S
reactant | methylamine | CN | CH5N
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 3-(2,2-dioxido-1-phenyl-1,4-dihydro-3H-2,1,3-benzothiadiazin-3-yl)-N-methylpropan-1-amine hydrochloride | 0.030 g, 92% | Cl.O=S1(N(C2=C(CN1CCCNC)C=CC=C2)C2=CC=CC=C2)=O | InChI=1S/C17H21N3O2S.ClH/c1-18-12-7-13-19-14-15-8-5-6-11-17(15)20(23(19,21)22)16-9-3-2-4-10-16;/h2-6,8-11,18H,7,12-14H2,1H3;1H
